US05684034
A solution of 0.927 g (2.7 mmol) of 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole-3-glycolic acid amide in 15 mL of trifluoroacetic acid was treated with 1.0 mL (6.0 mmol) of triethylsilane and the mixture stirred for 1.0 hour. After concentrating at reduced pressure, the residue was chromatographed on silca (eluted with EtOAc) and crystallized from MeOH/CH2Cl2 to give 455 mg (52% yield) of 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole-3-acetamide, mp, 189°-192° C.

reactant | 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole-3-glycolic acid amide | 2.7 mmol, 0.927 g | CC=1N(C2=CC=C(C=C2C1C(C(=O)N)O)[N+](=O)[O-])CC1=CC=CC=C1 | C18H17N3O4
reactant | triethylsilane | 6.0 mmol, 1.0 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-methyl-5-nitro-1-(phenylmethyl)-1H-indole-3-acetamide | 455 mg, 52% yield | CC=1N(C2=CC=C(C=C2C1CC(=O)N)[N+](=O)[O-])CC1=CC=CC=C1 | C18H17N3O3
